US04182767
A mixture of 7 ml of aqueous formalin, 15 ml of formic acid, 1.5 g of 2-hydroxymethyl-3,4,5-trihydroxypiperidine, m.p. 204°-205°, [α]D25 +45° (H2O), is heated under reflux for 20 hours. The reaction mixture is then concentrated to dryness under reduced pressure, the residue is dissolved in water and the insolubles are removed by filtration. The filtrate is passed over ion exchange resin column (Dowex 50 W×4). The column is rinsed with water and the absorved material is eluted with 0.28% aqueous ammonia. The eluate is concentrated to dryness under reduced pressure and the crystalline residue is recrystallized from ethanol to yield 2-hydroxymethyl-3,4,5-trihydroxy-N-methylpiperidine, m.p. 142°-143°, [α]D24 +15.5° (H2O), yield 1.2 g. Treatment with an equimolar amount of p-toluenesulfonic acid gives the corresponding p-toluenesulfonate which, in turn, is recrystallized from methanol. m.p. 198°-199°, [α]D24 +12.2° (methanol).

reactant | formalin | 7 ml | C=O | CH2O
reactant | formic acid | 15 ml | C(=O)O | CH2O2
reactant | 2-hydroxymethyl-3,4,5-trihydroxypiperidine | 1.5 g | OCC1NCC(C(C1O)O)O | C6H13NO4
solvent | H2O | O | H2O
product | 2-hydroxymethyl-3,4,5-trihydroxy-N-methylpiperidine | OCC1N(CC(C(C1O)O)O)C | C7H15NO4
